US05432182
Ethyl 2-butyryl-3-(2-(4-methoxybenzoyloxymethyl)-phenylamino)acrylate (12.2 g, 28.7 mmol) was added in portions to boiling diphenyl ether (200 ml), then heated at reflux for 30 minutes. Most of the diphenyl ether was distilled off in vacuo, and the residue triturated with ether to give 3-butyryl-8-(4-methoxybenzoyloxymethyl)-4(1H)-quinolone (5.85 g, 54%), m.p. 156°-162°.

reactant | Ethyl 2-butyryl-3-(2-(4-methoxybenzoyloxymethyl)-phenylamino)acrylate | 28.7 mmol, 12.2 g | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)COC(C1=CC=C(C=C1)OC)=O | C24H27NO6
solvent | diphenyl ether | 200 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-butyryl-8-(4-methoxybenzoyloxymethyl)-4(1H)-quinolone | 5.85 g, 54% | C(CCC)(=O)C1=CNC2=C(C=CC=C2C1=O)COC(C1=CC=C(C=C1)OC)=O | C22H21NO5
